US08044209B2
To a solution of 2-Bromo-4-{(S)-1-[(R)-1-(4-methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridine (160 mg, 0.44 mmol) in a mixture of toluene (9 mL) and ethanol (3 mL) are added 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-indole-1-carboxylic acid tert-butyl ester (228 mg, 0.66 mmol), Pd(PPh3)4 (51 mg, 0.04 mmol) and sodium carbonate (2N) (0.7 mL, 1.40 mmol). The reaction mixture is stirred at 85° C. overnight, cooled to room temperature. Water and EtOAc are added to the mixture. The layers are separated and the aqueous layer is extracted with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated down. The crude product is purified by flash chromatography on silica gel (EtOAc/Hexane: 10%˜90%) to give 3-(4-{(S)-1-[(R)-1-(4-Methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridin-2-yl)-indole-1-carboxylic acid tert-butyl ester as a yellow solid (175 mg, 79%). M/Z=498.32 [M+1]

reactant | 2-Bromo-4-{(S)-1-[(R)-1-(4-methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridine | 0.44 mmol, 160 mg | BrC1=NC=CC(=C1)[C@H]1N(CCC1)[C@H](C)C1=CC=C(C=C1)OC | C18H21BrN2O
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-indole-1-carboxylic acid tert-butyl ester | 0.66 mmol, 228 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)B1OC(C(O1)(C)C)(C)C | C19H26BNO4
reactant | sodium carbonate | 1.40 mmol, 2N, 0.7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.04 mmol, 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-{(S)-1-[(R)-1-(4-Methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridin-2-yl)-indole-1-carboxylic acid tert-butyl ester | 175 mg, 79% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C1=NC=CC(=C1)[C@H]1N(CCC1)[C@H](C)C1=CC=C(C=C1)OC | C31H35N3O3
